US06867161B1
A benzene solution (14.5 ml) containing diethyl allyl(2-carboxyethyl)malonate (1.95 g, 7.2 mmol) and oxalyl chloride (2.3 g, 18.1 mmol) was stirred at 70° C. for 1 hour. After cooling to room temperature, the reaction liquid was freed of solvent by vacuum distillation. Thus there was obtained 1.92 g of 4,4-dicarboethoxy-6-heptenic acid chloride (yields: 91%). Characteristic Values of 4,4-dicarboethoxy-6-peptenic acid chloride

reactant | diethyl allyl(2-carboxyethyl)malonate | 7.2 mmol, 1.95 g | C(C=C)C(C(=O)OCC)(C(=O)OCC)CCC(=O)O | C13H20O6
reactant | oxalyl chloride | 18.1 mmol, 2.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 14.5 ml | C1=CC=CC=C1 | C6H6
product | 4,4-dicarboethoxy-6-heptenic acid chloride | 1.92 g, 91% | C(=O)(OCC)C(CCC(=O)Cl)(CC=C)C(=O)OCC | C13H19ClO5
